US06121271
2-Bromo-4-(2,3-dimethyl-naphtho[2,3-b]furan-4-yl)-6-ethyl-phenol
The title compound was prepared according to the procedure in Example 1, step 5, using (2-benzyl-4,5-dimethyl-furan-3-yl)-(3-bromo-5-ethyl-4-methoxy-phenyl)-methanone (7.85 g, 18.4 mmol) and boron tribromide (13.2 mL, 0.139 mol). Purification on silica gel eluting with 2% EtOAc/hexane, followed by trituration with hexane gave 0.85 g (12%) of the title compound as a white solid. 1H NMR (DMSO-d6) δ 1.15 (t, 3 H), 1.59 (s, 3 H), 2.37 (s, 3 H), 2.64-2.77 (m, 2 H), 7.09 (d, 1 H), 7.31 -7.35 (m, 2 H), 7.42 (d of t, 1 H), 7.52 (d, 1 H), 7.95 (s, 1 H), 7.99 (d, 1 H), 9.17 (s, 1 H). mass spectrum (EI) m/z 394 (M+). Anal. Calcd. for C22H19Br1O2 : C, 66.85; H, 4.84; N, 0.00. Found: C, 67.07; H, 4.85, N, 0.05.

reactant | (2-benzyl-4,5-dimethyl-furan-3-yl)-(3-bromo-5-ethyl-4-methoxy-phenyl)-methanone | 18.4 mmol, 7.85 g | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(C(=C1)CC)OC)Br)C)C | C23H23BrO3
reactant | boron tribromide | 0.139 mol, 13.2 mL | B(Br)(Br)Br | BBr3
product | 2-Bromo-4-(2,3-dimethyl-naphtho[2,3-b]furan-4-yl)-6-ethyl-phenol | 0.85 g, 12% | BrC1=C(C(=CC(=C1)C1=C2C=CC=CC2=CC=2OC(=C(C21)C)C)CC)O | C22H19BrO2
